US09255110B2
A mixture of methanesulfonic acid 1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethyl ester (285.9 mg), toluene-4-sulfonic acid 1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethyl ester (55.2 mg) and sodium azide (185 mg) in N,N-dimethylformamide (ca. 5 mL) was heated at 80° C. overnight. The reaction mixture was cooled, diluted with water and extracted 3 times with ethyl acetate. The combined organic extracts were washed with brine, dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The crude residue was purified by flash chromatography (hexane/EtOAc, 90/10) to give 214 mg (76% yield) of 3-(1-azido-ethyl)-1-(4-chloro-2-nitro-phenyl)-pyrrolidine.

reactant | methanesulfonic acid 1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethyl ester | 285.9 mg | ClC1=CC(=C(C=C1)N1CC(CC1)C(C)OS(=O)(=O)C)[N+](=O)[O-] | C13H17ClN2O5S
reactant | toluene-4-sulfonic acid 1-[1-(4-chloro-2-nitro-phenyl)-pyrrolidin-3-yl]-ethyl ester | 55.2 mg | ClC1=CC(=C(C=C1)N1CC(CC1)C(C)OS(=O)(=O)C1=CC=C(C=C1)C)[N+](=O)[O-] | C19H21ClN2O5S
reactant | sodium azide | 185 mg | [N-]=[N+]=[N-].[Na+]
solvent | N,N-dimethylformamide | ca. 5 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(1-azido-ethyl)-1-(4-chloro-2-nitro-phenyl)-pyrrolidine | 214 mg, 76% yield | N(=[N+]=[N-])C(C)C1CN(CC1)C1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C12H14ClN5O2
